US08080552B2
A mixture of 120.0 g (456 mmol) 2-methylsulfanyl-4-(4-nitrophenoxy)-pyrimidine, 1200 ml ethanol, 1200 ml THF, and 24.0 g 10% palladium/C is hydrogenated at 46 mbar hydrogen pressure at r.t. for 8 h. The catalyst was removed by filtration, washed with 600 ml ethanol, then 300 ml THF and the combined filtrates evaporated. The residue was dissolved in a mixture of 700 ml ethyl acetate and 300 ml THF. The solution was dried over sodium sulphate and evaporated. The residue was stirred with 250 ml isohexane, the precipitate isolated and washed with 400 ml isohexane. Drying in vacuum at r.t. gave 102.5 g (96%) 4-(2-Methylsulfanyl-pyrimidin-4-yloxy)-phenylamine.

reactant | 2-methylsulfanyl-4-(4-nitrophenoxy)-pyrimidine | 456 mmol, 120.0 g | CSC1=NC=CC(=N1)OC1=CC=C(C=C1)[N+](=O)[O-] | C11H9N3O3S
reactant | ethanol | 1200 ml | C(C)O | C2H6O
reactant | hydrogen | [H][H] | H2
catalyst | palladium | 24.0 g | [Pd] | Pd
solvent | THF | 1200 ml | C1CCOC1 | C4H8O
product | 4-(2-Methylsulfanyl-pyrimidin-4-yloxy)-phenylamine | 102.5 g, 96% | CSC1=NC=CC(=N1)OC1=CC=C(C=C1)N | C11H11N3OS
